US08440666B2
2-(5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)-N-[1-(1H-pyrazol-4-yl)ethyl]acetamide
2-(5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)-N-[1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)ethyl]acetamide (56.2 mg, 0.10 mmol) was mixed with 4 M hydrogen chloride/1,4-dioxane (2 mL) and stirred at 100° C. for 5 hours. After completion of the reaction, the reaction solution was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/MeOH=20/1) to give the desired product (5.2 mg, 12% yield).

reactant | 2-(5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)-N-[1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-4-yl)ethyl]acetamide | 0.10 mmol, 56.2 mg | ClC1=C(C=NN(C1=O)CC(=O)NC(C)C=1C=NN(C1)COCC[Si](C)(C)C)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C27H43ClN6O3Si
reactant | hydrogen chloride 1,4-dioxane | 4 M, 2 mL | Cl.O1CCOCC1
product | 2-(5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl)-N-[1-(1H-pyrazol-4-yl)ethyl]acetamide | 5.2 mg, 12% yield | ClC1=C(C=NN(C1=O)CC(=O)NC(C)C=1C=NNC1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C21H29ClN6O2
